US07745641B2
In a similar manner to Step 2 of Example 6, 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.318 g, 0.564 mmol) was dissolved in acetonitrile (10.0 mL), and the solution was treated with piperidine (1.10 mL, 11.3 mmol), acetic acid (0.646 mL, 11.3 mmol) and sodium triacetoxyborohydride (0.359 g, 1.69 mmol), followed by purification by flash column chromatography (chloroform/methanol=85/15) to obtain 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.126 g, 35%).

reactant | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.564 mmol, 0.318 g | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C28H25N3O8S
reactant | piperidine | 11.3 mmol, 1.10 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 11.3 mmol, 0.646 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.69 mmol, 0.359 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.126 g, 35% | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H36N4O7S
